US04374249
[4R-(4R*,2'S*,3'R*)]-3-(3-Acetylthio-3-benzoyl-2-methylpropionyl)-4-thiazolidinecarboxylic acid
A mixture of 25 g. (0.13 mole) of 3-benzoyl-2-methylpropionic acid and 15.5 ml. of acetic anhydride is refluxed for 4 hours. The solvent is removed in vacuo and the residue is stripped several times with toluene to give a mixture of 3-methyl-5-phenyl-2(3H)-furanone and 3-methyl-5-phenyl-2(5H)-furanone. The preceding mixture is dissolved is 200 ml. of dioxane and 17.3 g. (0.13 mole) of L-thiazolidine-4-carboxylic acid, and 13.2 g. (0.13 mole) of triethylamine is added. The mixture is refluxed for 38 hours and filtered while hot. The filtrate is concentrated in vacuo to provide a gum. The gum is partitioned between ethyl acetate and dilute aqueous hydrochloric acid. The organic layer is dried over sodium sulfate and the solvent is removed in vacuo. The residue is slurried in ether, filtered and the solid washed with n-hexane to give 6.0 g. of white crystals. Recrystallization from acetone-hexane with the aid of activated carbon gives 4.0 g. of [ 4R-(4R*,2'R*)]-3-(3-benzoyl-2-methylpropionyl)-4-thiazolidinecarboxylic acid. Bromination of the preceding compound gives a mixture of [4R-(4R*,2'S*,3'R*)]-3-(3-benzoyl-3-bromo-2-methylpropionyl)-4-thiazolidinecarboxylic acid and [4R-(4R*,2'S*,3'S*)]-3-(3-benzoyl-3-bromo-2-methylpropionyl)-4-thiazolidinecarboxylic acid. The mixture of diastereomers is reacted with potassium thioacetate in acetonitrile-dichloromethane and the product is chromatographed on silica gel as for Example 1 to give the product of the Example as a white powder.

reactant | 3-benzoyl-2-methylpropionic acid | 0.13 mole | C(C1=CC=CC=C1)(=O)CC(C(=O)O)C | C11H12O3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | 3-methyl-5-phenyl-2(3H)-furanone | CC1C(OC(=C1)C1=CC=CC=C1)=O | C11H10O2
reactant | 3-methyl-5-phenyl-2(5H)-furanone | CC=1C(OC(C1)C1=CC=CC=C1)=O | C11H10O2
reactant | L-thiazolidine-4-carboxylic acid | 0.13 mole | C1C(NCS1)C(=O)O | C4H7NO2S
reactant | triethylamine | 0.13 mole | C(C)N(CC)CC | C6H15N
reactant | 3-(3-benzoyl-2-methylpropionyl)-4-thiazolidinecarboxylic acid | C(C1=CC=CC=C1)(=O)CC(C(=O)N1CSCC1C(=O)O)C | C15H17NO4S
reactant | 3-(3-benzoyl-3-bromo-2-methylpropionyl)-4-thiazolidinecarboxylic acid | C(C1=CC=CC=C1)(=O)C(C(C(=O)N1CSCC1C(=O)O)C)Br | C15H16BrNO4S
reactant | potassium thioacetate | C(C)(=S)[O-].[K+]
solvent | acetonitrile dichloromethane | C(C)#N.ClCCl
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-(3-Acetylthio-3-benzoyl-2-methylpropionyl)-4-thiazolidinecarboxylic acid | C(C)(=O)SC(C(C(=O)N1CSCC1C(=O)O)C)C(C1=CC=CC=C1)=O | C17H19NO5S2
